US08975400B2
tert-butyl 7-((3-cyano-4-(4-cyano-3-fluorophenoxy)benzyl)oxy)-5-oxo-2,3-dihydroimidazo[1,2-c]pyrimidine-1(5H)-carboxylate
The title compound was prepared by a procedure similar to that described for E1 starting from sodium hydride, 4-(2-cyano-4-(hydroxymethyl)phenoxy)-2-fluorobenzonitrile and tert-butyl 7-chloro-5-oxo-2,3-dihydroimidazo[1,2-c]pyrimidine-1(5H)-carboxylate.

reactant | sodium hydride | [H-].[Na+]
reactant | 4-(2-cyano-4-(hydroxymethyl)phenoxy)-2-fluorobenzonitrile | C(#N)C1=C(OC2=CC(=C(C#N)C=C2)F)C=CC(=C1)CO | C15H9FN2O2
reactant | tert-butyl 7-chloro-5-oxo-2,3-dihydroimidazo[1,2-c]pyrimidine-1(5H)-carboxylate | ClC=1C=C2N(C(N1)=O)CCN2C(=O)OC(C)(C)C | C11H14ClN3O3
product | tert-butyl 7-((3-cyano-4-(4-cyano-3-fluorophenoxy)benzyl)oxy)-5-oxo-2,3-dihydroimidazo[1,2-c]pyrimidine-1(5H)-carboxylate | C(#N)C=1C=C(COC=2C=C3N(C(N2)=O)CCN3C(=O)OC(C)(C)C)C=CC1OC1=CC(=C(C=C1)C#N)F | C26H22FN5O5
